US07645771B2
To a stirred solution of 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride (200 mg, 0.4 mmol) in DMF (8 mL) was added 3-chloro-4-sulfamoylbenzoic acid (94 mg, 0.4 mmol), triethylamine (166 μL, 1.2 mmol) and HATU (152 mg, 0.4 mmol). The resulting mixture was stirred at ambient temperature for 3 hours before being diluted with methylene chloride (50 mL). The reaction was then washed with saturated sodium bicarbonate solution. The organic phase was dried over anhydrous sodium sulfate. After evaporation of the solvent, the crude product was purified by flash chromatography on silical gel, eluting with a gradient of 0-10% methanol in ethyl acetate to afford 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide as amorphous solid (120 mg, 47%). 1H NMR (300 MHz, DMSO-d6) δ 7.87-7.71 (m, 3H), 7.57 (s, 1H), 7.50-7.47 (m, 2H), 7.38-7.33 (m, 4H), 7.24 (s, 1H), 7.14-7.06 (m, 2H), 4.49 (m, 1H), 3.98 (m, 1H), 3.42-3.23 (m, 5H), 3.06-3.00 (m, 1H), 2.43 (s, 3H), 2.39-2.22 (m, 2H), 2.17-2.08 (m, 2H), 1.92-1.76 (m, 10H), 1.58-1.56 (br, 2H). HRMS m/z (M+H)+ calcd: 646.2619; obsd: 646.2610.

reactant | 2-methyl-1-{8-[2-(4-phenylpiperidin-4-yl)ethyl]-8-azabicyclo[3.2.1]oct-3-yl}-1H-benzimidazole dihydrochloride | 0.4 mmol, 200 mg | Cl.Cl.CC1=NC2=C(N1C1CC3CCC(C1)N3CCC3(CCNCC3)C3=CC=CC=C3)C=CC=C2
reactant | 3-chloro-4-sulfamoylbenzoic acid | 0.4 mmol, 94 mg | ClC=1C=C(C(=O)O)C=CC1S(N)(=O)=O | C7H6ClNO4S
reactant | triethylamine | 1.2 mmol, 166 μL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.4 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide | 120 mg, 47% | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)N | C35H40ClN5O3S
